US08536171B2
In the patent RU 2138264, there is described a method for obtaining compound III, that is 2-amino-1,2,3,4-tetrahydrophthalazine-1,4-dione sodium salt dihydrate and it includes transformation of 3-nitrophtalic acid anhydride by means of hydrazine hydrate into 2-nitrophthalic hydrazide which is transformed into 3-aminophthalohydrazide by means of hydrazine hydrate in alkaline medium at presence of nickel-aluminum alloy, thereafter there is performed molecular rearrangement to 2-aminophthalohydrazide by means of bromine under pressure. In the final stage there are mixed 2-amino-phthalohydrazide and NaOH solution at the temperature up to 85° C. thereafter the mixture is filtered and evaporated up to obtaining 2-amino-1,2,3,4-tetrahydro-1,4-phthalazinedione sodium salt dehydrate.

reactant | 2-amino-1,2,3,4-tetrahydrophthalazine-1,4-dione sodium salt dihydrate | O.O.[Na].NN1C(C2=CC=CC=C2C(N1)=O)=O
reactant | 3-nitrophtalic acid anhydride | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | hydrazine hydrate | O.NN
reactant | 2-nitrophthalic hydrazide | [N+](=O)([O-])C1(C(C(=O)NN)C=CC=C1)C(=O)O | C8H9N3O5
reactant | 3-aminophthalohydrazide | NC1=C(C(C(=O)NN)=CC=C1)C(=O)NN | C8H11N5O2
reactant | 2-aminophthalohydrazide | NC1(C(C(=O)NN)C=CC=C1)C(=O)NN | C8H13N5O2
reactant | bromine | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
catalyst | nickel-aluminum alloy | [Al].[Ni]
product | 2-amino-1,2,3,4-tetrahydro-1,4-phthalazinedione sodium salt | [Na].NN1C(C2=CC=CC=C2C(N1)=O)=O | InChI=1S/C8H7N3O2.Na/c9-11-8(13)6-4-2-1-3-5(6)7(12)10-11;/h1-4H,9H2,(H,10,12);
